US05863949
To a solution of 2-(R)-2-[carboxymethyl(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester (Example 1) (1.05 grams, 2.41 mmol) in methylene chloride (20 mL) were added sequentially triethylamine (0.84 mL, 6.0 mmol),N-benzylmethylamine (0.34 mL, 2.63 mmol) and (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (1.17 grams, 2.69 mmol). The mixture was stirred at room temperature overnight and then diluted with ethyl acetate. The solution was washed with 0.5N hydrochloric acid solution and brine, dried over magnesium sulfate and concentrated under vacuum. The residue was chromatographed on silica gel using 35% ethyl acetate in hexane (plus a small amount of methylene chloride to load the sample on the column) affording 2-(R)-2-[benzylmethylcarbamoylmethyl)(4-methoxybenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester as a clear oil, 1.14 grams (88%).

reactant | triethylamine | 6.0 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | N-benzylmethylamine | 2.63 mmol, 0.34 mL | C(C1=CC=CC=C1)CN | C8H11N
reactant | (benzotriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate | 2.69 mmol, 1.17 grams | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-methylbutyric acid benzyl ester | C(C1=CC=CC=C1)OC(CC(C)C)=O | C12H16O2
